US05521147
A mixture of 30.0 g (0.17 mole) of 5-chloro-2-nitrophenol, 30.49 g (0.221 mole) of potassium carbonate, and 18.47 g (0.204 mole) of 2-methyl-2-propen-1-ol in 200 mL of 2-butanone was heated at 80° C. for approximately 16 hours. During this period the reaction changed color from orange to pale yellow. At the conclusion of this period the reaction mixture was filtered, and the filtrate was evaporated under reduced pressure, leaving 32.50 g of 4-chloro-2-(2-methyl-2-propen-1-yloxy)nitrobenzene as a solid residue, m.p. 47°-49° C.

reactant | 5-chloro-2-nitrophenol | 0.17 mole, 30.0 g | ClC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | potassium carbonate | 0.221 mole, 30.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methyl-2-propen-1-ol | 0.204 mole, 18.47 g | CC(CO)=C | C4H8O
solvent | 2-butanone | 200 mL | CC(CC)=O | C4H8O
product | 4-chloro-2-(2-methyl-2-propen-1-yloxy)nitrobenzene | 32.50 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])OCC(=C)C | C10H10ClNO3
